US07030240B2
{1-[1-(3-Fluoro-phenyl)-ethyl]4-methyl-piperidin-4-yl}-(5,6,7,8-tetrahydro-benzo [4,5]thieno[2,3-d]pyrimidin-4-yl)-amine
The title compound was prepared (97 mg, 81%) from (4-methyl-piperidin-4-yl)-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-amine(150 mg, 0.28 mmol) and methanesulfonic acid 1-(3-fluoro-phenyl)-ethyl ester (61.1 mg, 0.28 mmol) by following the procedure described for preparation 12. 1H NMR (400 MHz, CDCl3): 6 (ppm) 8.38 (s, 1H), 7.20 (s, 1H), 6.89–6.79 (m, 3H), 3.91 (q, 1H), 2.80–2.74(m, 4H), 2.20–2.09(M, 2H), 1.90 (m, 2H), 1.89–1.85 (m, 4H), 1.55 (m, 4H), 1.31 (s, 3H); MS (SEI): m/z: Calculated: 424.2; Observed: 425.2 (M++1).

reactant | (4-methyl-piperidin-4-yl)-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-amine | 0.28 mmol, 150 mg | CC1(CCNCC1)NC=1C2=C(N=CN1)SC1=C2CCCC1 | C16H22N4S
reactant | methanesulfonic acid 1-(3-fluoro-phenyl)-ethyl ester | 0.28 mmol, 61.1 mg | FC=1C=C(C=CC1)C(C)OS(=O)(=O)C | C9H11FO3S
product | {1-[1-(3-Fluoro-phenyl)-ethyl]4-methyl-piperidin-4-yl}-(5,6,7,8-tetrahydro-benzo [4,5]thieno[2,3-d]pyrimidin-4-yl)-amine | FC=1C=C(C=CC1)C(C)N1CCC(CC1)(C)NC=1C2=C(N=CN1)SC1=C2CCCC1 | C24H29FN4S
